US07855292B2
A. 4-(S)-Benzyl-3-[(2R,3R)-3-(3-bromo-phenyl)-3-hydroxy-2-methyl-propionyl]-oxazolidin-2-one
The title compound (2.73 g, 76%) was prepared from 4-(S)-benzyl-3-propionyl-oxazolidin-2-one and 3-bromobenzaldehyde as in Example 55, Part B. 1H NMR (400 MHz, CDCl3): 7.59-7.56 (m, 1H), 7.42-7.38 (m, 1H), 7.37-7.28 (m, 4H), 7.25-7.18 (m, 3H), 5.11 (app t, J=2.8, 1H), 4.73-4.64 (m, 1H), 4.22-4.16 (m, 2H), 4.02 (dq, J=7.0, 3.3, 1H), 3.27 (d, J=2.6, 1H), 3.25 (dd, J=13.4, 3.4, 1H), 2.80 (dd, J=13.4, 9.4, 1H), 1.18 (d, J=7.0, 3H).

reactant | 4-(S)-benzyl-3-propionyl-oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CC)=O | C13H15NO3
reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
product | 4-(S)-Benzyl-3-[(2R,3R)-3-(3-bromo-phenyl)-3-hydroxy-2-methyl-propionyl]-oxazolidin-2-one | 2.73 g, 76% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H]([C@@H](O)C1=CC(=CC=C1)Br)C)=O | C20H20BrNO4
